US05202335
To a suspension of (E)-2-benzylidene-3-(trans-decahydro- 2-isoquinolylcarbonyl)propionic acid (200 mg) in ethanol (2 ml) was added 10% Pd-C (20 mg) and the mixture was hydrogenated at room temperature and atmospheric pressure for 16 hours. After the catalyst was filtered off, the solvent was evaporated under reduced pressure to give 188 mg of 2-benzyl-3-(trans-decahydro-2-isoquinolylcarbonyl)propionic acid as a colorless viscous oil.

reactant | (E)-2-benzylidene-3-(trans-decahydro- 2-isoquinolylcarbonyl)propionic acid | 200 mg | C(/C1=CC=CC=C1)=C(\C(=O)O)/CC(=O)N1C[C@@H]2CCCC[C@H]2CC1 | C20H25NO3
solvent | ethanol | 2 ml | C(C)O | C2H6O
catalyst | Pd-C | 20 mg | [Pd] | Pd
product | 2-benzyl-3-(trans-decahydro-2-isoquinolylcarbonyl)propionic acid | 188 mg | C(C1=CC=CC=C1)C(C(=O)O)CC(=O)N1C[C@@H]2CCCC[C@H]2CC1 | C20H27NO3
